US07304064B2
1-{[1-(Cyclohexylmethyl)-7-methoxy-1H-indol-3-yl]carbonyl}-3,5-dimethylpiperazine, hydrochloride salt
To a solution of 1-(cyclohexylmethyl)-7-methoxy-indole-3-carboxylic acid (0.25 g, 0.87 mmol, prepared following the method in Example 1) and 2,6-dimethylpiperazine (0.12 g, 1.05 mmol) in dichloromethane (10 ml) was added diisopropylcarbodiimide (0.16 ml, 1.05 mmol) and 1-hydroxybenzotriazole (0.01 g, 0.09 mmol). The mixtures was stirred at room temperature for 18 h. The mixture was washed with 5 M sodium hydroxide (2×10 ml), dried with magnesium sulfate and evaporated. The residue was purified by flash chromatography eluting with 5-10% (v/v) methanol in dichloromethane to afford the title compound (free base) as a colourless oil. The free base (0.15 g) was dissolved in diethyl ether (3 ml) and treated dropwise with 2 M hydrochloric acid in diethyl ether (1 ml). The resulting precipitate was collected by filtration, washed with diethyl ether (15 ml) and dried under reduced pressure to afford the title compound (1:1 hydrochloric acid salt) as a colourless solid (0.15 g, 0.36 mmol). 1H NMR (400 MHz, CD3OD) δH 0.98-1.26 (5H, m) 1.32 (6H, d, J 6.5), 1.56 (2H, brd, J 12.0), 1.62-1.90 (4H, m), 3.06 (2H, dd, J 14.5, 11.5), 3.39-3.50 (2H, m), 3.95 (3H, s), 4.26 (2H, d, J 7.5), 4.52 (2H, br d, J 13.5), 6.77 (1H, d, J 7.5), 7.1 (1H, t, J 8.0), 7.24 (1H, d, J 8.0), 7.54 (1H, s); EIMS: m/z 384.2 [M+H]+.

reactant | 1-(cyclohexylmethyl)-7-methoxy-indole-3-carboxylic acid | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C(=O)O | C17H21NO3
reactant | 2,6-dimethylpiperazine | 1.05 mmol, 0.12 g | CC1NC(CNC1)C | C6H14N2
reactant | diisopropylcarbodiimide | 1.05 mmol, 0.16 ml | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 1-hydroxybenzotriazole | 0.09 mmol, 0.01 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-{[1-(Cyclohexylmethyl)-7-methoxy-1H-indol-3-yl]carbonyl}-3,5-dimethylpiperazine, hydrochloride salt | Cl.C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C(=O)N1CC(NC(C1)C)C | InChI=1S/C23H33N3O2.ClH/c1-16-12-26(13-17(2)24-16)23(27)20-15-25(14-18-8-5-4-6-9-18)22-19(20)10-7-11-21(22)28-3;/h7,10-11,15-18,24H,4-6,8-9,12-14H2,1-3H3;1H
